US07557221B2
A 3 liter, 3-necked round bottom flask equipped with a mechanical stirrer, temperature probe, addition funnel and nitrogen bubbler was charged with (R)-tert-butoxycarbonylamino-(4-hydroxy-phenyl)-acetic acid (67.9 g, 254 mmol) (Salituro, G. M.; Townsend, C. A. J. Am. Chem. Soc. 1990, 112, 760-770) in 1-methyl-pyrrolidin-2-one (225 mL) and then cooled to an internal reaction mixture temperature of 2° C. Aqueous sodium hydroxide (50% by weight) (43.2 g, 0.541 mol) was added over 10 minutes while maintaining the internal reaction mixture temperature below 14° C. The brown solution was stirred for 1 hour while maintaining the internal reaction mixture temperature below 10° C. 2-(2-Iodo-ethoxy)-2-methyl-propane (87.1 g, 382 mmol) containing 2-methoxy-2-methyl-propane (29 mL) was added over 10 minutes while maintaining the internal reaction mixture temperature between 3 and 5° C. After stirring the green colored reaction mixture at ambient temperature for 16 hours HPLC analysis indicated approximately 20% of unreacted (R)-tert-butoxycarbonylamino-(4-hydroxy-phenyl)-acetic acid present. The reaction mixture was cooled to an internal temperature of 5° C. and additional 2-(2-iodo-ethoxy)-2-methyl-propane (12.1 g, 53.1 mmol) containing 2-methoxy-2-methyl-propane (4 mL) was added over approximately 2 minutes while maintaining an internal reaction mixture temperature of between 5 and 6° C., followed by aqueous sodium hydroxide (50% by weight) (9 g, 113 mmol). The reaction mixture was allowed to warm and stirred at ambient temperature for 2 days. The reaction mixture was cooled to 4° C. and water (1.5 L) added over 1.5 hours while maintaining the internal reaction mixture temperature below 10° C. 2-Methoxy-2-methyl-propane (1.5 L) was added, the reaction mixture partitioned between the 2 phases and the layers separated. The yellow aqueous layer was cooled to 4° C. and 6N aqueous hydrochloric acid (450 mL, 2.7 mol) added over 5 minutes to form a white precipitate. The aqueous mixture was then extracted with ethyl acetate (2×1 L). The combined ethyl acetate extracts were washed with an aqueous solution of ammonium chloride (15% by weight) (175 mL) followed by an aqueous solution of sodium chloride (20% by weight) (175 mL). The reaction mixture was then concentrated under reduced pressure to give (R)-tert-butoxycarbonylamino-[4-(2-tert-butoxy-ethoxy)-phenyl]-acetic acid as a yellow oil which was suitable for further use without additional purification.

reactant | (R)-tert-butoxycarbonylamino-(4-hydroxy-phenyl)-acetic acid | 254 mmol, 67.9 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1=CC=C(C=C1)O | C13H17NO5
reactant | sodium hydroxide | 0.541 mol, 43.2 g | [OH-].[Na+]
reactant | 2-(2-Iodo-ethoxy)-2-methyl-propane | 382 mmol, 87.1 g | ICCOC(C)(C)C | C6H13IO
reactant | 2-(2-iodo-ethoxy)-2-methyl-propane | 53.1 mmol, 12.1 g | ICCOC(C)(C)C | C6H13IO
reactant | sodium hydroxide | 113 mmol, 9 g | [OH-].[Na+]
reactant | hydrochloric acid | 2.7 mol, 6N, 450 mL | Cl | ClH
solvent | 1-methyl-pyrrolidin-2-one | 225 mL | CN1C(CCC1)=O | C5H9NO
solvent | 2-Methoxy-2-methyl-propane | 1.5 L | COC(C)(C)C | C5H12O
solvent | water | 1.5 L | O | H2O
solvent | 2-methoxy-2-methyl-propane | 4 mL | COC(C)(C)C | C5H12O
solvent | 2-methoxy-2-methyl-propane | 29 mL | COC(C)(C)C | C5H12O
product | (R)-tert-butoxycarbonylamino-[4-(2-tert-butoxy-ethoxy)-phenyl]-acetic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1=CC=C(C=C1)OCCOC(C)(C)C | C19H29NO6
